US05126337
Ethyl 7-((S)-3-amino-1-pyrrolidinyl)-6,8-difluoro-1-methyl-4-oxo-1H,4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate
A mixture of 0.40 g of ethyl 7-[(S)-3-(tert-butoxycabonyl amino)-1-pyrrolidinyl)-6,8-difluoro-1-methyl-4-oxo-1H,4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate and 4.0 ml of 35% hydrochloric acid was heated at 80° C. for 10 minutes with stirring. The reaction mixture was neutralized with 20% aqueous sodium hydroxide. The precipitate was collected by filtration to give 0.29 g of the desired compound, which was recrystallized from ethanol to give pale brown crystals, m.p. 225°-230° C. (decomp.).

reactant | ethyl 7-[(S)-3-(tert-butoxycabonyl amino)-1-pyrrolidinyl)-6,8-difluoro-1-methyl-4-oxo-1H,4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate | 0.40 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(CC1)C1=C(C=C2C(C(=C3N(C2=C1F)C(S3)C)C(=O)OCC)=O)F | C23H27F2N3O5S
reactant | hydrochloric acid | 4.0 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | Ethyl 7-((S)-3-amino-1-pyrrolidinyl)-6,8-difluoro-1-methyl-4-oxo-1H,4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate | 0.29 g | N[C@@H]1CN(CC1)C1=C(C=C2C(C(=C3N(C2=C1F)C(S3)C)C(=O)OCC)=O)F | C18H19F2N3O3S
